US04734429
A mixture was prepared from 90 grams of 1,3-cyclohexanedione and 225 ml of N,N-dimethylformamide dimethyl acetal and heated at reflux for 90 minutes. Excess solvent was removed under reduced pressure and the residue was triturated in hot ethyl acetate to give 2-dimethylaminomethylene-1,3-cyclohexanedione as rust colored crystals melting at about 114.5°-116° C.

reactant | 1,3-cyclohexanedione | 90 grams | C1(CC(CCC1)=O)=O | C6H8O2
reactant | N,N-dimethylformamide dimethyl acetal | 225 ml | COC(N(C)C)OC | C5H13NO2
product | 2-dimethylaminomethylene-1,3-cyclohexanedione | CN(C)C=C1C(CCCC1=O)=O | C9H13NO2
